US08431603B2
N-Butyl-3-[4-(ethoxymethyl)-2,6-dimethoxyphenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine hydrobromide
To N-butyl-3-[4-(ethoxymethyl)-2,6-dimethoxyphenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine (1.02 g) was added acetone (2 mL) warmed by hot water, then hydrobromic acid (8.84M, 240 μL) was added, and the mixture was stirred. The solvent in the mixture was partially removed by blowing nitrogen stream, and the mixture was further stirred.

reactant | N-butyl-3-[4-(ethoxymethyl)-2,6-dimethoxyphenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine | 1.02 g | C(CCC)N(C=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)COCC)OC)OC)C2CCOCC2 | C26H37N3O5S
reactant | acetone | 2 mL | CC(=O)C | C3H6O
reactant | hydrobromic acid | 8.84M, 240 μL | Br | BrH
solvent | water | O | H2O
product | N-Butyl-3-[4-(ethoxymethyl)-2,6-dimethoxyphenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine hydrobromide | Br.C(CCC)N(C=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)COCC)OC)OC)C2CCOCC2 | InChI=1S/C26H37N3O5S.BrH/c1-6-8-11-28(19-9-12-34-13-10-19)24-25(32-5)27-29-20(17-35-26(24)29)23-21(30-3)14-18(16-33-7-2)15-22(23)31-4;/h14-15,17,19H,6-13,16H2,1-5H3;1H
